US05064649
(d) Diphenylmethyl 7β-Amino-3-(E-2,5-dihydro-4-methyl-2-oxo-3-phenylfuran-5-ylidenemethyl)ceph-3-em-4carboxylate
Diphenylmethyl 3-(E-2,5-dihydro-4-methyl-2-oxo-3-phenylfuran-5-ylidenemethyl)-7β-phenylacetamidoceph-3-em-4-carboxylate (0.6 g) in dichloromethane (5 mls) under argon, was cooled to -20° C. N-methylmorpholine phosphorous pentachloride (0.253 g) in dichloromethane (6.075 mls). The solution was maintained at -20° C. for 30-40mins. I.r. analysis showed no starting material present Dry methanol (5 mls) was added rapidly, in one portion. The reaction mixture was allowed to warm to room temperature over 30mins. Water (10 mls) was then added and the solution vigorously stirred for 30 mins. The organic phase was separated, washed with brine and then dried. After removal of solvent the residue was purified by flash chromatography on silica gel, eluting with 70% ethyl acetate/hexane. The title compound was obtained as a yellow foam, (0.453 g, 92%), νmax (CH2Cl2) 1780 (shoulder), 1760, 1720(w) and 1615(vw)cm-1 ; δH (CDCl 3) 2.06 (3H,s), 3.47 (2H,ABq,J18.6Hz), 4.87 (1H,d,J5.1Hz), 5.00 (1H,d,J5.1Hz), 6.33 (1H,s), 7.00 (1H,s) and 7.1-7.5 (15H,m); [mass spectrum: +ve ion (3-NOBA, Na+) MNa+, 573].

reactant | Diphenylmethyl 3-(E-2,5-dihydro-4-methyl-2-oxo-3-phenylfuran-5-ylidenemethyl)-7β-phenylacetamidoceph-3-em-4-carboxylate | 0.6 g | CC/1=C(C(O\C1=C\C=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC2=CC=CC=C2)=O)=O)=O)C2=CC=CC=C2 | C40H32N2O6S
reactant | methanol | 5 mls | CO | CH4O
reactant | Water | 10 mls | O | H2O
solvent | dichloromethane | 5 mls | ClCCl | CH2Cl2
solvent | dichloromethane | 6.075 mls | ClCCl | CH2Cl2
product | Diphenylmethyl 7β-Amino-3-(E-2,5-dihydro-4-methyl-2-oxo-3-phenylfuran-5-ylidenemethyl)ceph-3-em-4carboxylate | N[C@H]1[C@@H]2N(C(=C(CS2)/C=C/2\C(=C(C(O2)=O)C2=CC=CC=C2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C32H26N2O5S
